US05006157
Preparation of 4-acetoxy-1-(α,α-dimethylbenzyl)-3-phenyl-2-piperidone
3.6 g (0.0117 mol) of 4-hydroxy-1-(α,α-dimethylbenzyl)-3-phenyl-2-piperidone prepared by the method of Reference Example 19 and 10 ml of acetic anhydride were dissolved in 20 ml of pyridine, and the mixture was stirred at room temperature for one day and night. After completion of the reaction, the reaction solution was poured into ice water, extracted with ethyl acetate, washed with water and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain 4.1 g (quantitatively) of the desired compound.

reactant | 4-hydroxy-1-(α,α-dimethylbenzyl)-3-phenyl-2-piperidone | 0.0117 mol, 3.6 g | OC1C(C(N(CC1)C(C1=CC=CC=C1)(C)C)=O)C1=CC=CC=C1 | C20H23NO2
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 4-acetoxy-1-(α,α-dimethylbenzyl)-3-phenyl-2-piperidone | C(C)(=O)OC1C(C(N(CC1)C(C1=CC=CC=C1)(C)C)=O)C1=CC=CC=C1 | C22H25NO3
